US06713474B2
Sodium hydride (0.132 g of a 60% dispersion in mineral oil) was added to a solution of 5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine (1.0 g) in dry dimethylformamide (30 ml) with stirring under nitrogen. The mixture was stirred for 30 minutes and then cyclopentanesulphonyl chloride (0.558 g, prepared as described in J.O.C.1952, 17, 1529-1533) in dry dimethylformamide (5 ml) was added dropwise. The mixture was allowed to stand for 72 hours and then evaporated under vacuum. The residue was triturated with water and filtered to give a solid which was washed well with water, then stirred with ethyl acetate then filtered. The filtrate was purified by flash column chromatography on silica using ethyl acetate as the mobile phase. Appropriate fractions were collected and evaporated to give 7-cyclopentanesulphonyl-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine, m.p. 188-188.5° C.

reactant | Sodium hydride | [H-].[Na+]
reactant | 5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 1.0 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CNC=2N=CN=C(C21)N | C18H14N4O
reactant | cyclopentanesulphonyl chloride | 0.558 g | C1(CCCC1)S(=O)(=O)Cl | C5H9ClO2S
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 7-cyclopentanesulphonyl-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | C1(CCCC1)S(=O)(=O)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C23H22N4O3S
